US05270309
5-ethyl-4-oxo-1,4-dihydroquinoline-2-carboxylic acid;
5-iodo-4-oxo-1,4-dihydroquinoline-2-carboxylic acid; 5-bromo-7-methyl-4-oxo-1,4-dihydroquinoline-2-carboxylic acid;

reactant | 5-iodo-4-oxo-1,4-dihydroquinoline-2-carboxylic acid | IC1=C2C(C=C(NC2=CC=C1)C(=O)O)=O | C10H6INO3
reactant | 5-bromo-7-methyl-4-oxo-1,4-dihydroquinoline-2-carboxylic acid | BrC1=C2C(C=C(NC2=CC(=C1)C)C(=O)O)=O | C11H8BrNO3
product | 5-ethyl-4-oxo-1,4-dihydroquinoline-2-carboxylic acid | C(C)C1=C2C(C=C(NC2=CC=C1)C(=O)O)=O | C12H11NO3
